US06576637B1
280 mg of methyl 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(4-trifluoromethoxyphenyl)propionate (crude material) are dissolved in 30 ml of dioxane, and 0.61 ml of NaOH (2 mol/l) is added. Stirring at room temperature overnight is followed by removal of the solvent by distillation and the usual workup. 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(4-trifluoromethoxyphenyl)propionic acid is obtained. If an excess of NaOH is used, the sodium salt of 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(4-trifluoromethoxyphenyl)propionic acid is obtained. Preparative HPLC results in 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(4-trifluoromethoxyphenyl)propionic acid trifluoroacetate, RT 24.93 min, FAB-MS (M+H)+ 483.

reactant | methyl 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(4-trifluoromethoxyphenyl)propionate | 280 mg | CC1=CC(=NC=C1)NCCCC(=O)NCC(=O)NC(CC(=O)OC)C1=CC=C(C=C1)OC(F)(F)F | C23H27F3N4O5
reactant | NaOH | 2 mol/l, 0.61 ml | [OH-].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(4-trifluoromethoxyphenyl)propionic acid | CC1=CC(=NC=C1)NCCCC(=O)NCC(=O)NC(CC(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C22H25F3N4O5
